US05420298
Using an analogous procedure to that described in the second paragraph of the portion of Example 1 which is concerned with the preparation of starting materials, 1-ethoxycarbonyl-3-hydroxy-3-(2-methylthiothien-4-yl)pyrrolidine was reacted with methyl iodide to give 1-ethoxycarbonyl-3-methoxy-3-(2-methylthiothien-4-yl)pyrrolidine as an oil in 75% yield.

reactant | 1-ethoxycarbonyl-3-hydroxy-3-(2-methylthiothien-4-yl)pyrrolidine | C(C)OC(=O)N1CC(CC1)(C=1C=C(SC1)SC)O | C12H17NO3S2
reactant | methyl iodide | CI | CH3I
product | 1-ethoxycarbonyl-3-methoxy-3-(2-methylthiothien-4-yl)pyrrolidine | 75% yield | C(C)OC(=O)N1CC(CC1)(C=1C=C(SC1)SC)OC | C13H19NO3S2
